US06303610B1
Preparation of 1-[N-ethoxycarbonyl-N-(2-methoxybenzyl)amino]-3-(1H-indol-3-yl)-2-[N-(2-((4-phenyl)piperazin-1-yl)acetyl)amino]propane
To a solution of the 3-(1H-indol-3-yl)1-[N-(2-methoxybenzyl)amino]-2-[N-(2-((4-phenyl)piperazin-1-yl)acetyl)amino]propane (0.43 g, 0.85 mmole) and triethylamine (130 μl, 0.93 mmole) in 5 ml of anhydrous tetrahydrofuran, was added dropwise ethylchloroformate (89 μl, 0.93 mmole). The resulting mixture was stirred for about 16 hours at room temperature. The tetrahydrofuran was removed under reduced pressure.

reactant | 3-(1H-indol-3-yl)1-[N-(2-methoxybenzyl)amino]-2-[N-(2-((4-phenyl)piperazin-1-yl)acetyl)amino]propane | 0.85 mmole, 0.43 g | N1C=C(C2=CC=CC=C12)CC(CNCC1=C(C=CC=C1)OC)NC(CN1CCN(CC1)C1=CC=CC=C1)=O | C31H37N5O2
reactant | triethylamine | 0.93 mmole, 130 μl | C(C)N(CC)CC | C6H15N
reactant | ethylchloroformate | 0.93 mmole, 89 μl | C(C)OC(=O)Cl | C3H5ClO2
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 1-[N-ethoxycarbonyl-N-(2-methoxybenzyl)amino]-3-(1H-indol-3-yl)-2-[N-(2-((4-phenyl)piperazin-1-yl)acetyl)amino]propane | C(C)OC(=O)N(CC1=C(C=CC=C1)OC)CC(CC1=CNC2=CC=CC=C12)NC(CN1CCN(CC1)C1=CC=CC=C1)=O | C34H41N5O4
